US05412117
To a mixture of 2.08 g of N-methyl-6-nitro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide and 50 ml of methanol was added 1.33 g of sodium borohydride at -10° C. while stirring. The mixture was stirred for 24 hours while slowly raising the temperature from -10° C. up to room temperature, followed by concentration under reduced pressure. Water was added to the residue, and the mixture was extracted with methylene chloride. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was recrystallized from a mixed solvent of methylene chloride and n-hexane to obtain 0.6 g of N-methyl-6-nitro-3,4-dihydro-3-hydroxy-2,2-dimethyl -2H-1-benzopyran-4-carbothioamide.

reactant | N-methyl-6-nitro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide | 2.08 g | CNC(=S)C1=C(C(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)C)O | C13H14N2O4S
reactant | sodium borohydride | 1.33 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | N-methyl-6-nitro-3,4-dihydro-3-hydroxy-2,2-dimethyl -2H-1-benzopyran-4-carbothioamide | 0.6 g | CNC(=S)C1C(C(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)C)O | C13H16N2O4S
